US05324709
N-(5-(1-(4-Acetoxytetrahydrofuran-3-yloxycarbonyl)ethylamino)-4-chloro-2-fluorophenyl)-3,4,5,6-tetrahydrophthalimide
A mixture of 8.84 g of N-(5-amino-4-chloro-2-fluorophenyl)-3,4,5,6-tetrahydrophthalimide, 12.6 g of 4-acetoxytetrahydrofuran-3-yl 2-bromopropionate, 3.02 g of sodium hydrogencarbonate and 3 ml of xylene was heated under stirring at 150° to 160° C. for 4 hours. Adding ethyl acetate to the reaction mixture while it remained warm, the resulting mixture was washed with water, subsequently with aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by chromatography on a silica gel column (development solvent: ethyl acetate/hexane=1/2), to obtain 4.88 g of a compound described in Table 1 (No. 10) (33 %).

reactant | N-(5-amino-4-chloro-2-fluorophenyl)-3,4,5,6-tetrahydrophthalimide | 8.84 g | NC=1C(=CC(=C(C1)N1C(C2=C(C1=O)CCCC2)=O)F)Cl | C14H12ClFN2O2
reactant | 4-acetoxytetrahydrofuran-3-yl 2-bromopropionate | 12.6 g | BrC(C(=O)OC1COCC1OC(C)=O)C | C9H13BrO5
reactant | sodium hydrogencarbonate | 3.02 g | C(O)([O-])=O.[Na+]
reactant | xylene | 3 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(5-(1-(4-Acetoxytetrahydrofuran-3-yloxycarbonyl)ethylamino)-4-chloro-2-fluorophenyl)-3,4,5,6-tetrahydrophthalimide | 4.88 g | C(C)(=O)OC1C(COC1)OC(=O)C(C)NC=1C(=CC(=C(C1)N1C(C2=C(C1=O)CCCC2)=O)F)Cl | C23H24ClFN2O7
